### ISSUE TITLE
Add documentation to Birkhoff.lean

### ISSUE THREAD

**Issue by mseri** [mseri/birkhoff#52]
As per title

**Comment by mseri** [comment]
In Borkhoff, you can replace the monotonicity arguments with
```lean

/-- `maxOfSums` is monotone.
(Uncertain which is the best phrasing to keep of these options.) -/
theorem maxOfSums_mono (x : α) : Monotone (fun n ↦ maxOfSums T φ x n) := by
  unfold maxOfSums
  exact OrderHom.monotone (partialSups fun k ↦ birkhoffSum T φ (k + 1) x)

/-- `maxOfSums` is monotone (one step version). -/
theorem maxOfSums_succ_le (x : α) (n : ℕ) : (maxOfSums T φ x n) ≤ (maxOfSums T φ x (n + 1)) := by
  exact OrderHom.apply_mono (by rfl) (Nat.le_add_right n 1)

/-- `maxOfSums` is monotone (general steps version). -/
theorem maxOfSums_le_le (x : α) (m n : ℕ) (hmn : m ≤ n) :
    (maxOfSums T φ x m) ≤ (maxOfSums T φ x n) := by
  exact OrderHom.apply_mono (by rfl) hmn
```
